US06423688B1
N-(Toluene-4-sulfonyl)sarcosyl-β-(piperidin-4-yl)-D,L-alanine methyl ester hydrochloride (180 mg, 0.402 mmol) was dissolved in MeOH (3 mL). Triethylamine (56 μL), benzaldehyde (53 mg, 0.502 mmol) and 1.0 M NaBH3CN in THF (400 μL) were added and the mixture was stirred for 5 hr. 1N HCl (3 mL) was added and the mixture was stirred for 5 minutes before diluting with saturated aqueous NaHCO3 (30 mL). The mixture was extracted with EtOAc (3×25 mL) and the combined extracts were dried (Na2SO4), filtered and evaporated in vacuo to give a residue which was purified by silica gel flash chromatography (95:5:0.5 CH2Cl2/MeOH/NH4OH) to give N-(toluene-4-sulfonyl)sarcosyl-β-(N-benzylpiperidin-4-yl)-D,L-alanine methyl ester (105 mg, 52%). The title compound was prepared via hydrolysis of the methyl ester using 0.5 N aqueous NaOH in THF/water as a very hygroscopic solid.

reactant | N-(Toluene-4-sulfonyl)sarcosyl-β-(piperidin-4-yl)-D,L-alanine methyl ester hydrochloride | 0.402 mmol, 180 mg | Cl.COC(C(NC(CN(C)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1CCNCC1)=O
reactant | benzaldehyde | 0.502 mmol, 53 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH3CN | 1.0 M | [BH3-]C#N.[Na+]
reactant | HCl | 1N, 3 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | THF | 400 μL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | Triethylamine | 56 μL | C(C)N(CC)CC | C6H15N
product | N-(toluene-4-sulfonyl)sarcosyl-β-(N-benzylpiperidin-4-yl)-D,L-alanine methyl ester | 105 mg, 52% | COC(C(NC(CN(C)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1CCN(CC1)CC1=CC=CC=C1)=O | C26H35N3O5S
